US04547501
A mixture consisting of 700 mg. (0.0025 mole) of 4-chloro-1-trifluoromethyl-[1,2,4]triazolo[4,3-a]quinoxaline (prepared as described above) and 560 mg. (0.0075 mole) of diethylamine (0.8 ml.) in 10 ml. of N,N-dimethylformamide was stirred at room temperature overnight and then poured over ice. The resulting mixture was then filtered and the recovered solid product washed with water and then dissolved in ethyl acetate. The latter organic solution was next washed with saturated brine and dried over anhydrous magnesium sulfate. After removal of the drying agent by means of filtration and the solvent by means of evaporation under reduced pressure, there was ultimately obtained a light yellow solid which after recrystallization from diethyl ether gave pure 4-diethylamino-1-trifluoromethyl-[1,2,4]triazolo[4,3-a]quinoxaline. The yield of the first crop melting at 155°-157° C. amounted to 260 mg. (34%), while the yield of the second crop melting at 153°-156° C. amounted to 170 mg. (22%).

reactant | 4-chloro-1-trifluoromethyl-[1,2,4]triazolo[4,3-a]quinoxaline | 0.0025 mole | ClC=1C=2N(C3=CC=CC=C3N1)C(=NN2)C(F)(F)F | C10H4ClF3N4
reactant | diethylamine | 0.0075 mole, 0.8 ml | C(C)NCC | C4H11N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-diethylamino-1-trifluoromethyl-[1,2,4]triazolo[4,3-a]quinoxaline | C(C)N(C=1C=2N(C3=CC=CC=C3N1)C(=NN2)C(F)(F)F)CC | C14H14F3N5
